US08003787B2
Intermediate 9: Preparation of 3-(6-bromoquinolin-4-ylamino)-4-chloro-phenol hydrochloride
500 mg (2.06 mmol) of 6-bromo-4-chloroquinoline in 20 ml acetonitrile are mixed with 325 mg (2.27 mmol) of 3-amino-4-chlorophenol and 0.5 ml of 1 M HCl solution in dioxane and heated under reflux for 3 days. The crystals which have separated out are filtered off with suction and dried under high vacuum. 700 mg (70%) of the title compound are obtained as hydrochloride.

reactant | 6-bromo-4-chloroquinoline | 2.06 mmol, 500 mg | BrC=1C=C2C(=CC=NC2=CC1)Cl | C9H5BrClN
reactant | 3-amino-4-chlorophenol | 2.27 mmol, 325 mg | NC=1C=C(C=CC1Cl)O | C6H6ClNO
reactant | HCl | 1 M, 0.5 ml | Cl | ClH
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 3-(6-bromoquinolin-4-ylamino)-4-chloro-phenol hydrochloride | 700 mg, 70% | Cl.BrC=1C=C2C(=CC=NC2=CC1)NC=1C=C(C=CC1Cl)O | InChI=1S/C15H10BrClN2O.ClH/c16-9-1-4-13-11(7-9)14(5-6-18-13)19-15-8-10(20)2-3-12(15)17;/h1-8,20H,(H,18,19);1H
